US06004988
5 3,3-Diphenylbutanoic acid
4.9 g of ethyl 3,3-diphenylbutanoate (18.3 mmol) were dissolved in 30 ml of dioxane, 36 ml of 1M KOH were added, and the mixture was stirred at 60-70° C. for 6 h.

reactant | ethyl 3,3-diphenylbutanoate | 18.3 mmol, 4.9 g | C1(=CC=CC=C1)C(CC(=O)OCC)(C)C1=CC=CC=C1 | C18H20O2
reactant | KOH | 1M, 36 ml | [OH-].[K+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3,3-Diphenylbutanoic acid | C1(=CC=CC=C1)C(CC(=O)O)(C)C1=CC=CC=C1 | C16H16O2
